US07427617B2
1-(2-Fluorobenzyl)-3-cyanoindazole
2.61 g (24.61 mmol) of sodium carbonate as 10% strength aqueous solution are added to a suspension of 5.00 g (16.41 mmol) of 1-(2-fluorobenzyl)indazole-3-amidinium chloride from Example IIIb) in 100 ml of ethyl acetate, and the mixture is stirred at room temperature for 90 minutes. One molar sodium hydroxide solution is added until the phases have separated. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulfate and filtered, and the solvent is removed in vacuo. 3.33 g (76% of theory) of the product are obtained.

reactant | sodium carbonate | 24.61 mmol, 2.61 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(2-fluorobenzyl)indazole-3-amidinium chloride | 16.41 mmol, 5.00 g | [Cl-].FC1=C(CN2N=C(C3=CC=CC=C23)C(=[NH2+])N)C=CC=C1
reactant | sodium hydroxide | One molar | [OH-].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Fluorobenzyl)-3-cyanoindazole | FC1=C(CN2N=C(C3=CC=CC=C23)C#N)C=CC=C1 | C15H10FN3
